US08227234B2
One hundred mL of isopropanol was added to the resulting broth containing 0.27 g of 2-hydroxy-4-pyridinaldoxime obtained from the reaction with 4-pyridinaldoxime as a substance. After shaking for 30 minutes, the solid contents were removed by filtration. After an addition of 100 mL of water to the filtrate, the whole was concentrated under a reduced pressure, whereby isopropanol was removed to precipitate the crystals. The precipitated crystals were separated by filtration to obtain 0.20 g of crude crystals. The resulting crystals were washed by water, and then were separated by filtration to obtain 0.15 g of white crystals of 2-hydroxy-4-pyridinaldoxime (rate of isolated yield=53%). The structure of the crystals was identified by IR analysis, proton NMR analysis and MS analysis.

reactant | 2-hydroxy-4-pyridinaldoxime | 0.27 g | OC1=NC=CC(=C1)C=NO | C6H6N2O2
solvent | isopropanol | One hundred mL | C(C)(C)O | C3H8O
product | 4-pyridinaldoxime | N1=CC=C(C=C1)C=NO | C6H6N2O
